US07495007B2
Preparation of racemic (2′R,3R,4′S)-2′-[5-bromo-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a mixture of racemic (2′R,3R,4′S)-2′-[5-bromo-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (700 mg, 1.08 mmol) in methanol (20 mL) was added a solution of NaOH (120 mg, 3 mmol) in water (10 mL). The mixture was heated at 60° C. for 1.5 h, evaporated to remove most of methanol, cooled to room temperature, and acidified to “pH” 2 with aqueous HCl solution. The precipitate was collected and dried to give product as a white solid (610 mg). m/z (M+H)+: 617

reactant | racemic (2′R,3R,4′S)-2′-[5-bromo-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 1.08 mmol, 700 mg | BrC=1C=CC(=C(C1)C1NC(CC(C12C(NC1=CC(=CC=C12)Cl)=O)C1=CC(=CC=C1)Cl)=O)OC(C)(C)C(=O)OCC | C30H27BrCl2N2O5
reactant | NaOH | 3 mmol, 120 mg | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | racemic (2′R,3R,4′S)-2′-[5-bromo-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 610 mg | BrC=1C=CC(=C(C1)C1NC(CC(C12C(NC1=CC(=CC=C12)Cl)=O)C1=CC(=CC=C1)Cl)=O)OC(C)(C)C(=O)O | C28H23BrCl2N2O5
